US05804585
C. N-(4 -chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(naphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 5(A) using N-(4-chloro-3-methyl-5-isoxazolyi)-N-(methoxyethoxymethyl)-2-(α-acetoxynaphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide (97 mg, 0.16 mmoles), CH2Cl2 (3 ml), triethylsilane (0.25 ml, 1.6 mmoles) and boron trifluoride etherate (0.19 ml, 1.6 mmoles). Flash chromatography (40% EtOAc/hexanes) provided 58 mg (66%) of the title compound as a yellow solid.

reactant | N-(4-chloro-3-methyl-5-isoxazolyi)-N-(methoxyethoxymethyl)-2-(α-acetoxynaphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide | 0.16 mmoles, 97 mg | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C1=CC=CC=C1C=C2)OC(C)=O)COCCOC)C | C28H26ClN3O7S2
reactant | triethylsilane | 1.6 mmoles, 0.25 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 1.6 mmoles, 0.19 ml | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(4 -chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(naphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide | 58 mg, 66% | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=CC=CC1=CC=CC=C21)COCCOC)C | C26H24ClN3O5S2
